US06780965B2
250 Parts of dimethyl 1,4-cyclohexanedicarboxylate and 25 parts of a copper-chromium catalyst were placed in an autoclave having a volume of 2 liters, and the mixture was stirred at 260° C. and reduced with hydrogen under a hydrogen pressure of 15 MPa. Then, the catalyst was removed by filtration, methanol formed as a side product was removed from an obtained filtrate by concentration, and the remaining filtrate was distilled under reduced pressure (160-175° C./1.33-2.00×103 Pa), to give 1,4-cyclohexanedimethanol (to be sometimes referred to as “CHDM” hereinafter). This product was subjected to 1H-NMR (JNM-AL400 supplied by JEOL) to show an isomer structure ratio of 71% of a trans-isomeric compound and 29% of a cis-isomeric compound (CHDM1).

reactant | dimethyl 1,4-cyclohexanedicarboxylate | C1(CCC(CC1)C(=O)OC)C(=O)OC | C10H16O4
reactant | hydrogen | [H][H] | H2
catalyst | copper-chromium | [Cr].[Cu]
product | 1,4-cyclohexanedimethanol | C1(CCC(CC1)CO)CO | C8H16O2
